US07572801B2
To a solution of 2-(3-chloro-phenyl)-ethanol (1.96 g, 12.51 mmol) in THF (55 ml) was added n-BuLi (8.8 ml, 1.6 M solution in hexane, 13.77 mmol) at −78° C. Then sodium iodoacetate (2.6 g, 12.51 mmol) was added and the mixture was allowed to warm to ambient temperature and was stirred overnight. The THF was then removed and 1 N HCl was added to the remaining residue to adjust the pH to 1. This mixture was extracted two times with dichloromethane and the combined extracts were dried (Na2SO4) and evaporated. The remaining red liquid was dissolved in MeOH (60 ml) and thionylchloride (1.56 ml, 21.5 mmol) was added dropwise at −15° C. The reaction mixture was then stirred for 1.5 h at ambient temperature. Then water was added and the mixture was extracted three times with ether. The combined extracts were washed with brine, dried (Na2SO4) and evaporated. The remaining residue was then purified by column chromatography (silica gel, heptane/ethyl acetate 95:5 to 88:12) to give [2-(3-chloro-phenyl)-ethoxy]-acetic acid methyl ester (2.161 g, 9.45 mmol; 76%) as orange liquid. MS: m/e=229.2 [M+H+].

reactant | 2-(3-chloro-phenyl)-ethanol | 12.51 mmol, 1.96 g | ClC=1C=C(C=CC1)CCO | C8H9ClO
reactant | n-BuLi | 13.77 mmol, 1.6 M, 8.8 ml | [Li]CCCC
reactant | sodium iodoacetate | 12.51 mmol, 2.6 g | ICC(=O)[O-].[Na+]
reactant | thionylchloride | 21.5 mmol, 1.56 ml | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 55 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [2-(3-chloro-phenyl)-ethoxy]-acetic acid methyl ester | 9.45 mmol, 2.161 g, 76% | COC(COCCC1=CC(=CC=C1)Cl)=O | C11H13ClO3
